US04369320
7-Chloro-N-[(4,6-dimethoxy-1,3,5-triazin-2-yl)aminocarbonyl]-8-quinolinesulfonamide
To a stirred mixture of 7-chloro-8-quinolinesulfonamide (1.5 g) in 75 ml methylene chloride is added a 2 M toluene solution of trimethyl aluminum (4.7 ml). The resulting solution is stirred under N2 for 45 min. Solid methyl(4,6-dimethoxy-1,3,5-triazin-2-yl)carbamate (1.1 g) is added and the mixture is heated at reflux for 60 h. The reaction is quenched sequentially with acetic acid (1 ml), 6 N HCl (2.5 ml) and water (13 ml). The organic solution is retained, dried with MgSO4, and is concentrated to an oil-solid mixture. Filtration afforded 0.6 g yellow solid m.p. 169°-191° C. (dec). The infrared spectrum showed characteristic absorption bands at 3300 and 1700 cm-1.

reactant | 7-chloro-8-quinolinesulfonamide | 1.5 g | ClC1=CC=C2C=CC=NC2=C1S(=O)(=O)N | C9H7ClN2O2S
reactant | toluene | 2 M | C1(=CC=CC=C1)C | C7H8
reactant | trimethyl aluminum | 4.7 ml | C[Al](C)C
reactant | methyl(4,6-dimethoxy-1,3,5-triazin-2-yl)carbamate | 1.1 g | COC(NC1=NC(=NC(=N1)OC)OC)=O | C7H10N4O4
solvent | methylene chloride | 75 ml | C(Cl)Cl | CH2Cl2
product | 7-Chloro-N-[(4,6-dimethoxy-1,3,5-triazin-2-yl)aminocarbonyl]-8-quinolinesulfonamide | 0.6 g | ClC1=CC=C2C=CC=NC2=C1S(=O)(=O)NC(=O)NC1=NC(=NC(=N1)OC)OC | C15H13ClN6O5S
